US07674822B2
tert-Butyl bromoacetate (0.10 ml, 0.65 mmol, 1.3 equiv) was added to a mixture of NaOt-Bu (60 mg, 1.2 equiv) and 6-chloro-1-hydroxy-3,8-dithia-cyclopenta[a]indene-2-carboxylic acid methyl ester (150 mg, 0.5 mmol) in DMF (6 ml) and stirred at 60° C. for 2.5 hr then at RT for 3 days. Water was added and the mixture was extracted with EtOAc. After removal of solvent, purification by column chromatography gave 140 mg (68%) of 1-tert-butoxycarbonylmethoxy-6-chloro-3,8-dithia-cyclopenta[a]indene-2-carboxylic acid methyl ester as orange solids.

reactant | tert-Butyl bromoacetate | 0.65 mmol, 0.10 ml, 1.3 equiv | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | NaOt-Bu | 60 mg, 1.2 equiv | CC(C)(C)[O-].[Na+]
reactant | 6-chloro-1-hydroxy-3,8-dithia-cyclopenta[a]indene-2-carboxylic acid methyl ester | 0.5 mmol, 150 mg | COC(=O)C1=C(C2=C(C=3C=CC(=CC3S2)Cl)S1)O | C12H7ClO3S2
reactant | Water | O | H2O
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | 1-tert-butoxycarbonylmethoxy-6-chloro-3,8-dithia-cyclopenta[a]indene-2-carboxylic acid methyl ester | 140 mg, 68% | COC(=O)C1=C(C2=C(C=3C=CC(=CC3S2)Cl)S1)OCC(=O)OC(C)(C)C | C18H17ClO5S2
